US05646286
(f) 2-Bromo-6-hydroxymethyl-3-[8(4-methoxyphenyl)octyloxy]pyridine hydrobromide
The crude 2-bromo-3-hydroxy-6-hydroxymethylpyridine (vide supra, 1.12 mol) was dissolved in dimethyl formamide (1150 ml) at 60° C. 1-Chloro-8-(4-anisyl)-octane (342 g, 1.34 mmol) and potassium carbonate (388 g, 2.81 mol) were added. It was found to be important that the potassium carbonate was ground to as fine a powder as possible. The mixture was stirred vigorously and heated to 90°-95° C. until the assay of 2-bromo-3-hydroxy-6-hydroxymethylpyridine (by HPLC) fell below 3% (approx 5 h). The mixture was then cooled to room temperature, poured into water (10 L) and extracted with ethyl acetate (3×670 ml). The combined ethyl acetate extracts were washed with water (2×500 ml) and dried before being evaporated to dryness. The crude reaction product was dissolved in butan-1-ol (2700 ml) and hydrogen bromide gas (120 g) passed through the solution keeping the temperature below 70° C. After allowing the mixture to cool to 10° C. with vigorous stirring the solid product was filtered and washed with ethyl acetate (2×500 ml). The solid product was dried under vacuum at 60° C. for 4 days. Yield 421 g, 75%.

reactant | 2-bromo-3-hydroxy-6-hydroxymethylpyridine | 1.12 mol | BrC1=NC(=CC=C1O)CO | C6H6BrNO2
reactant | 1-Chloro-8-(4-anisyl)-octane | 1.34 mmol, 342 g | ClCCCCCCCCCC1=CC=C(C=C1)OC | C16H25ClO
reactant | potassium carbonate | 2.81 mol, 388 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen bromide | 120 g | Br | BrH
solvent | dimethyl formamide | 1150 ml | CN(C=O)C | C3H7NO
solvent | butan-1-ol | 2700 ml | C(CCC)O | C4H10O
solvent | water | 10 L | O | H2O
product | 2-Bromo-6-hydroxymethyl-3-[8(4-methoxyphenyl)octyloxy]pyridine hydrobromide | Br.BrC1=NC(=CC=C1OCCCCCCCCC1=CC=C(C=C1)OC)CO | InChI=1S/C21H28BrNO3.BrH/c1-25-19-12-9-17(10-13-19)8-6-4-2-3-5-7-15-26-20-14-11-18(16-24)23-21(20)22;/h9-14,24H,2-8,15-16H2,1H3;1H
